US04472415
1-(4'-chlorophenyl)-2-(1,2,4-triazol-1-yl)-3-(2',4'-dichlorophenyl)-propan-1-ol (Compound 5)
Sodium borohydride (0.42 g) was added in small portions to 2-(1,2,4-triazol-1-yl)-2-(2',4'-dichlorobenzyl)-4'-chloroacetophenone (4.2 g) in methanol (40 ml). When the effervescence ceased, the mixture was refluxed for 1 hour, cooled to room temperature and the methanol removed at the water pump. The residue was acidified with 1N-hydrochloric acid to give a solid which was filtered and washed. Recrystallisation from ethanol/water gave white crystals of the title compound (yield 80%).

reactant | Sodium borohydride | 0.42 g | [BH4-].[Na+]
reactant | 2-(1,2,4-triazol-1-yl)-2-(2',4'-dichlorobenzyl)-4'-chloroacetophenone | 4.2 g | N1(N=CN=C1)C(C(=O)C1=CC=C(C=C1)Cl)CC1=C(C=C(C=C1)Cl)Cl | C17H12Cl3N3O
solvent | methanol | 40 ml | CO | CH4O
product | 1-(4'-chlorophenyl)-2-(1,2,4-triazol-1-yl)-3-(2',4'-dichlorophenyl)-propan-1-ol | yield 80% | ClC1=CC=C(C=C1)C(C(CC1=C(C=C(C=C1)Cl)Cl)N1N=CN=C1)O | C17H14Cl3N3O
